US05576437
A mixture of 4-cyano-2,6-diaminotoluene (3.56 g), ferric chloride hexahydrate (11.63 g), and zinc chloride (0.499 g) in ethanol (600 mL) is warmed to 65° C. A solution of 1,1,3-trimethoxypropane (5.23 g) in ethanol (90 mL) is added dropwise via syringe pump over a period of 90 minutes. The reaction is then heated to reflux for 2.5 hours. The reaction is cooled to room temperature and the solvent rotary evaporated. The residue is mixed with 300 mL of water and basified to pH=11 with concentrated ammonium hydroxide. The products are extracted with ethyl acetate (4×300 mL), and the combined extracts dried over sodium sulfate and rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 50% ethyl acetate/hexane to afford 7-amino-5-cyano-8-methylquinoline as a yellow solid.

reactant | 4-cyano-2,6-diaminotoluene | 3.56 g | C(#N)C1=CC(=C(C(=C1)N)C)N | C8H9N3
reactant | 1,1,3-trimethoxypropane | 5.23 g | COC(CCOC)OC | C6H14O3
reactant | water | 300 mL | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | ethanol | 90 mL | C(C)O | C2H6O
catalyst | zinc chloride | 0.499 g | [Cl-].[Zn+2].[Cl-]
product | 7-amino-5-cyano-8-methylquinoline | NC1=CC(=C2C=CC=NC2=C1C)C#N | C11H9N3
